US07868177B2
To a mixture of 1-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)guanidine bis-TFA salt (0.200 g, 0.35 mmol) and potassium carbonate (0.20 g, 1.4 mmol) in 1 mL DMSO was added 2-bromo-1-phenylpropan-1-one (0.054 ml, 0.35 mmol). The reaction was allowed to stir at ambient temperature for 30 min, then 70° C. After 16 h, the reaction was quenched by addition of water and was extracted with EtOAc. The organic layer was dried over anhyd. Sodium sulfate, filtered, and concentrated in vacuo. The resulting green/brown oil was purified by silica gel chromatography (40 g, 0-100% 90/10 MC/MeOH in MC) to give an oil. This was lyophilized from MeOH/water to give N-methyl-4-(2-(4-(5-methyl-4-phenyl-1H-imidazol-2-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine as an off-white solid. MS m/z=450 [M+H]+. Calc'd for C26H23N7O: 449.5.

reactant | 1-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)guanidine bis-TFA salt | 0.35 mmol, 0.200 g | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC(=N)N
reactant | potassium carbonate | 1.4 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-phenylpropan-1-one | 0.35 mmol, 0.054 ml | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | MeOH water | CO.O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-methyl-4-(2-(4-(5-methyl-4-phenyl-1H-imidazol-2-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC=1NC(=C(N1)C1=CC=CC=C1)C | C26H23N7O
